US07208495B2
1-(3-(benzyloxy)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine
Sodium hydride (60%, 0.06 g, 1.5 mmol) was added to a solution of 5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol (0.30 g, 0.75 mmol) obtained in Reference Example 18 in DMF (5 ml) under ice cooling. The mixture was stirred for 30 minutes, and then benzyl bromide (0.14 g, 0.84 mmol) was added. After stirring for 30 minutes under ice cooling, the mixture was stirred for 30 minutes at room temperature. The resulting mixture was poured into water and extracted with ethyl acetate. The organic extract was washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=9/1) to obtain 0.23 g (yield 62%) of the title compound via recrystallization (diisopropyl ether-methanol). mp. 98–99° C.

reactant | Sodium hydride | 1.5 mmol, 0.06 g | [H-].[Na+]
reactant | 5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol | 0.75 mmol, 0.30 g | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)O)C1C)C)C | C24H32N2O3
reactant | benzyl bromide | 0.84 mmol, 0.14 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(3-(benzyloxy)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine | 0.23 g, yield 62% | C(C1=CC=CC=C1)OC1C(OC2=C1C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C)(C)C | C31H38N2O3
